US09357779B2
tert-Butyl 4-[4-(3-phenylpropanoyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (IV-2)
At room temperature, 1,1,1-tri acetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (15% strength solution in dichloromethane, 8.3 g) was added dropwise to a solution of tert-butyl 4-[4-(1-hydroxy-3-phenylpropyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (790 mg) in dichloromethane (7.9 ml). The reaction mixture was stirred at room temperature overnight. 5 g of silica gel were then added, and the solvent was removed under reduced pressure. The residue was purified chromatographically. This gave tert-butyl 4-[4-(3-phenylpropanoyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (545 mg).

reactant | 1,1,1-tri acetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 8.3 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butyl 4-[4-(1-hydroxy-3-phenylpropyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate | 790 mg | OC(CCC1=CC=CC=C1)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C22H30N2O3S
solvent | dichloromethane | 7.9 ml | ClCCl | CH2Cl2
product | tert-Butyl 4-[4-(3-phenylpropanoyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate | C1(=CC=CC=C1)CCC(=O)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C22H28N2O3S
